### PR TITLE
feat: de Bruijn Syntax for Untyped Lambda Calculus and a proof of Church-Rosser with Parallel Reduction

### PR DESCRIPTION
**Pull request by zayn7lie**
## Main contributions

> `Q1308502: Church-Rosser theorem` in [1000 theorems](https://github.com/leanprover-community/mathlib4/blob/master/docs/1000.yaml)

* A de Bruijn syntax for λ-terms together with substitution and shifting operations.
* Definition of one-step β-reduction.
* Definition of parallel β-reduction (`Par`) and its basic properties.
* Abstract confluence infrastructure (`Diamond`, `Confluent`) for binary relations.
* Proof that parallel β-reduction satisfies the diamond property.
* Deduction of confluence of β-reduction (Church–Rosser theorem) via standard closure arguments.

The development follows the classical proof strategy:
`parallel reduction -> diamond -> confluence -> Church–Rosser.`

## Design choices

* De Bruijn indices are used to avoid α-equivalence bookkeeping.
* Parallel reduction is defined inductively to enable a direct diamond proof.
* Confluence lemmas are factored through generic relation-theoretic definitions
  (`Diamond`, `Confluent`) to keep the proof modular.

## Use of AI

* Rough structure for beginning
* Small/trivial structure proof
* Docs/Comment generating
* Final refinement

### CODE REVIEW

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean:1]: This should go with the other lambda calculus modules under `Cslib/Languages/LambdaCalculus` and follow their structure of a directory for each type system. I would call this binding `Unscoped` to distinguish from well-scoped de Bruijn indices. So all togther, everything here would go under `Cslib.Languages.LambdaCalculus.Unscoped.Untyped.*`

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/ConfluentReduction.lean
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/ConfluentReduction.lean:1]: I think all of this is subsumed by `Cslib.Foundations.Data.Relation`.

File: Cslib/Computability/LambdaCalculus/DeBruijnSyntax.lean [hunk 1]
```diff
@@ -0,0 +1,330 @@
...
+
+open Term
+namespace Term
+
+notation:max "𝕧" str => Term.var str
+notation:max "λ." t => Term.abs t
+infixl:77 "·" => Term.app
+
+/-- `incre i l t` increments `i` for all free vars `≥ l`. -/
+@[simp, expose] public def incre (i : Nat) (l : Nat) : Term → Term
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/DeBruijnSyntax.lean]: It seems like you should just use `@[expose] public section` for these modules.

File: Cslib/Computability/LambdaCalculus/DeBruijnSyntax.lean [hunk 2]
```diff
@@ -0,0 +1,330 @@
...
+  | app t u => app (incre i l t) (incre i l u)
+
+/-- `subst j s t` substitutes `j` with term `s` in `t`. -/
+@[simp, expose] public def subst (j : Nat) (s : Term) : Term → Term
+  | var k   => if k = j then s else var k
+  | abs t   => abs (subst (j + 1) (incre 1 0 s) t)
+  | app t u => app (subst j s t) (subst j s u)
+
+/-- `decre c t` decrements free vars `> c` by 1. -/
+@[simp, expose] public def decre (l : Nat) : Term → Term
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/DeBruijnSyntax.lean]: For the sake of consistency, I would also generalize this to an arbitrary decrement.

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean [hunk 3]
```diff
@@ -0,0 +1,330 @@
...
+      cases em (n ≤ k) with
+      | inl h =>
+          simp_all [le_trans h (Nat.le_add_right k j)]
+          simp_all [Nat.add_comm, Nat.add_left_comm]
+      | inr h => simp_all [if_neg h]
+  | abs t' ih => simp_all
+  | app t₁ t₂ ih₁ ih₂ => simp_all
+
+/-- Communitivity of incre. -/
+public theorem incre_comm {i j k l t} :
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: I think we can clean up some of the arithmetic in theorems like this, but I'll wait until we have more high-level changes done first to give specific suggestions.

File: Cslib/Computability/LambdaCalculus/DeBruijnSyntax.lean [hunk 4]
```diff
@@ -0,0 +1,330 @@
...
+  | var k   => if l < k then var (k - 1) else var k
+  | abs t   => abs (decre (l + 1) t)
+  | app t u => app (decre l t) (decre l u)
+
+/-- Substitute into the body of a lambda: `(λ.t) s` -/
+@[simp, expose] public def sub (t : Term) (n : Nat) (s : Term) := decre n (subst n (incre 1 n s) t)
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/DeBruijnSyntax.lean]: See `Cslib.Foundations.Syntax.HasSubstitution` for the notation typeclass we use for substitution.

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean [hunk 5]
```diff
@@ -0,0 +1,89 @@
...
+namespace Lambda
+open Term
+
+/-- One-step β-reduction (compatible closure). -/
+public inductive Beta : Term → Term → Prop
+  | abs  {t t'}        : Beta t t' → Beta (λ.t) (λ.t')
+  | appL {t t' u}      : Beta t t' → Beta (t·u) (t'·u)
+  | appR {t u u'}      : Beta u u' → Beta (t·u) (t·u')
+  | red  (t' s : Term) : Beta ((λ.t')·s) (t'.sub 0 s)
+public abbrev BetaStar := Relation.ReflTransGen Beta
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean]: We use the attribute `reduction_sys` for generating notations for reductions and the multi-step closure.

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean [hunk 6]
```diff
@@ -0,0 +1,89 @@
...
+
+namespace BetaStar
+
+public theorem refl (t : Term) : BetaStar t t :=
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean]: As a general style rule, please out a single space between theorems.

**Review by chenson2018 — CHANGES_REQUESTED** [review]
Hi, thanks for your interest in contributing to CSLib! We do have Church-Rosser for locally nameless binding, but I think we are interested in having the more common de Bruijn indices representation as well. 

I see there is a disclosure of AI usage, but this looks like its been mostly cleaned up pretty well, so thank you.

Below are some initial reviews about making this fit into CSLib conventions.

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean:1]: [`commits/1c74c358e126c5920557e78b003d76bdc7570727`](https://github.com/leanprover/cslib/pull/475/commits/1c74c358e126c5920557e78b003d76bdc7570727)

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/ConfluentReduction.lean
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/ConfluentReduction.lean:1]: [`commits/d381f04bfa4f2873bbf3f1a84e070f5c0976ce6f`](https://github.com/leanprover/cslib/pull/475/commits/d381f04bfa4f2873bbf3f1a84e070f5c0976ce6f)

File: Cslib/Computability/LambdaCalculus/DeBruijnSyntax.lean (hunk 1 above)
Comment (zayn7lie) [reply Cslib/Computability/LambdaCalculus/DeBruijnSyntax.lean]: [`commits/67a3cb1e241791b891b4c67fb95ee8ac3525a7de`](https://github.com/leanprover/cslib/pull/475/commits/67a3cb1e241791b891b4c67fb95ee8ac3525a7de); [`commits/653d4dcf094eb0cedaf683709911c13ce0f71ded`](https://github.com/leanprover/cslib/pull/475/commits/653d4dcf094eb0cedaf683709911c13ce0f71ded)

File: Cslib/Computability/LambdaCalculus/DeBruijnSyntax.lean (hunk 2 above)
Comment (zayn7lie) [reply Cslib/Computability/LambdaCalculus/DeBruijnSyntax.lean]: [`commits/fd07da03b23b970234ae0e946b65922adf216934`](https://github.com/leanprover/cslib/pull/475/commits/fd07da03b23b970234ae0e946b65922adf216934)

File: Cslib/Computability/LambdaCalculus/DeBruijnSyntax.lean (hunk 4 above)
Comment (zayn7lie) [reply Cslib/Computability/LambdaCalculus/DeBruijnSyntax.lean]: [`commits/089b99ad499d7ea7448bc72b982b4d71ee11a1fd`](https://github.com/leanprover/cslib/pull/475/commits/089b99ad499d7ea7448bc72b982b4d71ee11a1fd)

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean (hunk 3 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: Sure, thanks.

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/ConfluentReduction.lean
Comment (chenson2018) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/ConfluentReduction.lean:1]: Maybe I was unclear here. I don't think this file should exist at all. All of this, with maybe the exception of `rtc_eq_of_sandwich`, is already in `Cslib.Foundations.Data.Relation`.

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean (hunk 6 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean]: [`commits/901cf2834a9d3c9d2221eae3c6f703e4ab8445cc`](https://github.com/leanprover/cslib/pull/475/commits/901cf2834a9d3c9d2221eae3c6f703e4ab8445cc)

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/ConfluentReduction.lean
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/ConfluentReduction.lean:1]: Thanks for clarification:
[`commits/28e7a79deee335a4afc846052de594f970672010`](https://github.com/leanprover/cslib/pull/475/commits/28e7a79deee335a4afc846052de594f970672010)
[`commits/d38b50169dcbee2c72574911b79a68c1d6402b3a`](https://github.com/leanprover/cslib/pull/475/commits/d38b50169dcbee2c72574911b79a68c1d6402b3a)

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean (hunk 5 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean]: [`commits/2c3aac6ca1538a49b2fb26ad8f8196ecdc11b77b`](https://github.com/leanprover/cslib/pull/475/commits/2c3aac6ca1538a49b2fb26ad8f8196ecdc11b77b)

Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean]: [`commits/05d381c02932ca948e6a7bf58477fc937a62ded0`](https://github.com/leanprover/cslib/pull/475/commits/05d381c02932ca948e6a7bf58477fc937a62ded0)

Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean]: At the same time, would you know how to type `⭢` in Lean for single reduction?

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean:1]: Let's follow the convention of naming this file `Basic.lean`.

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean [hunk 7]
```diff
@@ -0,0 +1,383 @@
...
+The definitions in this file are tailored to the later development of one-step β-reduction,
+parallel reduction, and the Church–Rosser theorem.
+
+## References
+
+* <https://en.wikipedia.org/wiki/De_Bruijn_index>
+-/
+
+
+namespace Lambda
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: The namespacing should closely follow the previous lamba calculi developments. I think that would make this `Cslib.LambdaCalculus.Unscoped.Untyped`.

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean [hunk 8]
```diff
@@ -0,0 +1,383 @@
...
+
+/-- using de Bruijn syntax avoiding α-conversion -/
+public inductive Term : Type where
+  | var : Nat → Term
+  | abs : Term → Term
+  | app : Term → Term → Term
+deriving DecidableEq, Repr
+
+open Term
+namespace Term
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: It is redundant to both open and then enter a namespace

```suggestion
namespace Term
```

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean [hunk 9]
```diff
@@ -0,0 +1,383 @@
...
+
+notation:max "𝕧" str => Term.var str
+notation:max "λ." t => Term.abs t
+infixl:77 "·" => Term.app
+
+/-- `incre i l t` increments `i` for all free vars `≥ l`. -/
+@[expose] public def incre (i : Nat) (l : Nat) : Term → Term
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: As I mentioned previously, I would remove everywhere you use `public` and `@[expose]` in favor of `@[expose] public section`

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean [hunk 10]
```diff
@@ -0,0 +1,383 @@
...
+    which substitute nth variable in t with s. -/
+@[expose] public instance : Cslib.HasSubstitution Term Nat Term 
+  where subst := sub
+
+/-- Increment of 0 is identity -/
+@[simp] public theorem incre_rfl {l t} : incre 0 l t = t := by
+  induction t generalizing l with
+  | var k => simp_all only [incre, Nat.add_zero, ite_self]
+  | abs t ih => simp_all only [incre]
+  | app t u iht ihu => simp_all only [incre]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean:103]: These `simp` are terminal, so do not need to be squeezed. Personally I would just write

```suggestion
  induction t generalizing l with grind [incre]
```

**Comment by zayn7lie** [comment]
> @zayn7lie Please rebase on upstream rather than merge

Thanks for notification, sorry for confusion.

**Comment by lengyijun** [comment]
`sub` looks too complicated, compared to https://api.cslib.io/docs/Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Basic.html#Cslib.LambdaCalculus.LocallyNameless.Untyped.Term.openRec

**Comment by chenson2018** [comment]
> `sub` looks too complicated, compared to https://api.cslib.io/docs/Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Basic.html#Cslib.LambdaCalculus.LocallyNameless.Untyped.Term.openRec

I don't understand this comment. It looks as I would expect for this binding scheme.

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean [hunk 11]
```diff
@@ -0,0 +1,383 @@
...
+  | abs t   => abs (subst (j + 1) (incre 1 0 s) t)
+  | app t u => app (subst j s t) (subst j s u)
+
+/-- `decre i l t` decrements `i` for all free vars `≥ l + i`.
+    the reason using `l + i` is that it is more explicit for
+    free variable elimination. For example, after eliminating
+    `var k` for Term `t` from the most outside, `decre 1 k t`
+    will close the gap caused by `k` elimination. -/
+@[expose] public def decre (i : Nat) (l : Nat) : Term → Term
+  | var k   => if l + i ≤ k then var (k - i) else var k
```
Comment (lengyijun) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: Can we avoid minus ?

**Comment by zayn7lie** [comment]
> Compared to https://api.cslib.io/docs/Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Basic.html Some new definition are introduced: incre decre
> 
> Are they really necessary ?

Please read the header comment docs of `DeBruijnSyntax.lean`. I have also referred to <https://en.wikipedia.org/wiki/De_Bruijn_index> in it. [Formal definition](https://en.wikipedia.org/wiki/De_Bruijn_index#Formal_definition) has the description for primitive operation (substitution).

**Comment by lengyijun** [comment]
Can you rename `sub` to `subst`, according to proof of locally nameless

**Comment by zayn7lie** [comment]
> Can you rename `sub` to `subst`, according to proof of locally nameless

I am somehow hesitant to do that. The current `subst` is more primitive than `sub` (`sub` is already very specific for beta reduction), aligning with `incre` and `decre`. And I have also introduced `Cslib.HasSubstitution`, so we might not need to do anything with `sub` later, but using `t[n:=s]`. `subst` might be more useful for future definition of other kinds of usage. @chenson2018 What would you think about this?

**Comment by chenson2018** [comment]
I agree that we should almost always use the notation and corresponding naming, which is then based off `HasSubstitution.subst`. So things using the notation should probably use `subst`, but I'm not sure I care about the name used in the instance.

I've started a second pass of reviews which I'll try to have complete in a few days.

File: Cslib/Foundations/Data/Relation.lean [hunk 12]
```diff
@@ -51,6 +51,22 @@ theorem ReflTransGen.to_eqvGen (h : ReflTransGen r a b) : EqvGen r a b := by
 theorem SymmGen.to_eqvGen (h : SymmGen r a b) : EqvGen r a b := by
   induction h <;> grind
 
+/-- Sandwich: if `r ⊆ p ⊆ r*` then `r* = p*`. -/
+theorem ReflTransGen.sandwich_to_eq {α} {r p : α → α → Prop}
+    (h₁ : ∀ {a b}, r a b → p a b)
+    (h₂ : ∀ {a b}, p a b → ReflTransGen r a b) :
+    ∀ {a b}, ReflTransGen r a b ↔ ReflTransGen p a b := by
```
Comment (eric-wieser) [inline Cslib/Foundations/Data/Relation.lean]: Perhaps better as
```suggestion
    (h₁ : r ≤ p)
    (h₂ : p ≤ ReflTransGen r) :
    ReflTransGen r = ReflTransGen p := by
```
I think this was discussed on Zulip?

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/ParallelReduction.lean [hunk 13]
```diff
@@ -0,0 +1,185 @@
...
+private lemma par_subst {t t' u u'} (ht : t ⭢∥ t') (hu : u ⭢∥ u')
+  (k : Nat) (n : Nat) :
+    (t.sub n (incre k 0 u)) ⭢∥ (t'.sub n (incre k 0 u')) := by
+  match t, t' with
+  | var t, var t' => match ht with
+      | Par.var t => cases em (t = n) with
+          | inl h => 
+              simp_all only [sub, subst, ↓reduceIte, 
+                decre_incre_elim, incre_par]
+          | inr h => cases em (t < n) with
```
Comment (eric-wieser) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/ParallelReduction.lean]: I think this is better handled with `obtain h | h | h := lt_trichotomy t n`

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean [hunk 14]
```diff
@@ -0,0 +1,383 @@
...
+  | abs : Term → Term
+  | app : Term → Term → Term
+deriving DecidableEq, Repr
+
+open Term
+namespace Term
+
+notation:max "𝕧" str => Term.var str
+notation:max "λ." t => Term.abs t
+infixl:77 "·" => Term.app
```
Comment (eric-wieser) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: These should use `@[inherit_doc]`

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean [hunk 15]
```diff
@@ -0,0 +1,383 @@
...
+
+/-- `decre i l t` decrements `i` for all free vars `≥ l + i`.
+    the reason using `l + i` is that it is more explicit for
+    free variable elimination. For example, after eliminating
+    `var k` for Term `t` from the most outside, `decre 1 k t`
+    will close the gap caused by `k` elimination. -/
+@[expose] public def decre (i : Nat) (l : Nat) : Term → Term
+  | var k   => if l + i ≤ k then var (k - i) else var k
+  | abs t   => abs (decre i (l + 1) t)
+  | app t u => app (decre i l t) (decre i l u)
```
Comment (eric-wieser) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean:87]: Should this be a single operation?

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean [hunk 16]
```diff
@@ -0,0 +1,383 @@
...
+
+/-- Substitute into the body of a lambda: `(λ.t) s` -/
+@[expose] public def sub (t : Term) (n : Nat) (s : Term) :=
```
Comment (eric-wieser) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]:
```suggestion
@[expose] public def sub (t : Term) (n : Nat) (s : Term) : Term := 
```

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean [hunk 17]
```diff
@@ -0,0 +1,383 @@
...
+-/
+
+
+namespace Lambda
+
+/-- using de Bruijn syntax avoiding α-conversion -/
+public inductive Term : Type where
+  | var : Nat → Term
+  | abs : Term → Term
+  | app : Term → Term → Term
```
Comment (eric-wieser) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean:62]: Please write a docstring for each of these

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean (hunk 14 above)
Comment (chenson2018) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: The application notation is also problematic, as it conflicts the core `\.` notation.

File: Cslib/Foundations/Data/Relation.lean (hunk 12 above)
Comment (chenson2018) [reply Cslib/Foundations/Data/Relation.lean]: Yes, [this thread](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/relation.20between.20.60r.60.20and.20.60ReflTransGen.20r.60/with/584754601). I'd use the naming and shorter proof discussed there as well.

**Review by chenson2018 — COMMENTED** [review]
This is still not comprehensive, but a few more comments. The comment about squeezing terminal simp applies throughout and is one factor making proofs much longer than they need to be. Could you work on fixing this a bit?

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean (hunk 15 above)
Comment (chenson2018) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean:87]: Hmm, I don't think I've ever seen it done that way before? It might be awkward not having `incre` and `decre` as inverses. I'm not sure though.

File: Cslib/Foundations/Data/Relation.lean (hunk 12 above)
Comment (zayn7lie) [reply Cslib/Foundations/Data/Relation.lean]: [commits/ef3c7ebafc5c3091ae123b5c30b9912cc539d818](https://github.com/leanprover/cslib/pull/475/commits/ef3c7ebafc5c3091ae123b5c30b9912cc539d818)

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/ParallelReduction.lean (hunk 13 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/ParallelReduction.lean]: https://github.com/leanprover/cslib/pull/475/commits/227f618fa4801fc51709097438b9a7f72cb74743

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean [hunk 18]
```diff
@@ -0,0 +1,72 @@
...
+  | appR {t u u'}      : Beta u u' → Beta (t·u) (t·u')
+  | red  (t' s : Term) : Beta ((λ.t')·s) (t'.sub 0 s)
+
+namespace BetaStar
+
+public theorem appL {t t' u : Term} (h : t ↠β t') :
+    (t·u) ↠β (t'·u) := by
+  induction h with
+  | refl => exact refl (t·u)
+  | tail hab hbc ih => exact tail ih (Beta.appL hbc)
```
Comment (eric-wieser) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean]:
```suggestion
    (t·u) ↠β (t'·u) :=
  h.lift (· ·u) fun _ _ => .appL
```
etc

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean (hunk 14 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: https://github.com/leanprover/cslib/pull/475/commits/f10bc4b58c5461c163631b86bdd462dc8cf1eb48

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean (hunk 16 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: https://github.com/leanprover/cslib/pull/475/commits/ac6e547ec657e8ac036089abfbf955cca08c3c58

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean (hunk 17 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean:62]: https://github.com/leanprover/cslib/pull/475/commits/088c0420abee6967468b57629c0080619108ff21

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean (hunk 10 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean:103]: https://github.com/leanprover/cslib/pull/475/commits/7ce683200327b274ff47783874d59fe290031bc1

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean (hunk 7 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: https://github.com/leanprover/cslib/pull/475/commits/01049fc2591496981d3885ee1079cd446b1740e2

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean (hunk 8 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: https://github.com/leanprover/cslib/pull/475/commits/1b9eba8ee117a932ff76c1334e9ac181f2352e83

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean (hunk 9 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: https://github.com/leanprover/cslib/pull/475/commits/437d80136677ef94c29f6b0d69c04770df7b5d57

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean (hunk 18 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean]: https://github.com/leanprover/cslib/pull/475/commits/0d7928acf10d916f490e9b38eba235847ee1d825

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean [hunk 19]
```diff
@@ -0,0 +1,65 @@
...
+theorem appL {t t' u : Term} (h : t ↠β t') :
+    (app t u) ↠β (app t' u) := h.lift (app · u) (fun _ _ => .appL)
+
+theorem appR {t u u' : Term} (h : u ↠β u') :
+    (app t u) ↠β (app t u') := h.lift (app t ·) (fun _ _ => .appR)
+
+theorem app {t t' u u'}
+    (ht : t ↠β t') (hu : u ↠β u') :
+    (app t u) ↠β (app t' u') := 
+  Relation.ReflTransGen.trans (appL ht) (appR hu)
```
Comment (eric-wieser) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean]: perhaps:
```suggestion
  (appL ht).trans (appR hu) 
```

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean (hunk 17 above)
Comment (eric-wieser) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean:62]: I mean put a docstring on each one, not add to the main docstring.

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean (hunk 19 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/BetaReduction.lean]: https://github.com/leanprover/cslib/pull/475/commits/e123ae1e7fef69e6fd34e76cc2508e91ecbf2386

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean [hunk 20]
```diff
@@ -0,0 +1,387 @@
...
+  | app t u => app (decre i l t) (decre i l u)
+
+/-- Substitute into the body of a lambda: `(abs t) s` -/
+def sub (t : Term) (n : Nat) (s : Term) : Term := 
+  decre 1 n (subst n (incre 1 n s) t)
+
+/-- Notation typeclass for substitution, t[n := s] ≃ t.sub n s 
+    which substitute nth variable in t with s. -/
+instance : Cslib.HasSubstitution Term Nat Term 
+  where subst := sub
```
Comment (eric-wieser) [inline Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: There's no reason to explain where whta the typeclass is for
```suggestion
instance : Cslib.HasSubstitution Term Nat Term where
  subst := sub
```

Also, was this written by an AI?

Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: Sorry, I do not know about the style. This part is written by me.

Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean]: https://github.com/leanprover/cslib/pull/475/commits/ed88f4d2e04c0feb617fb342b69e99f9778198fa

File: Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean (hunk 17 above)
Comment (zayn7lie) [reply Cslib/Languages/LambdaCalculus/Unscoped/Untyped/DeBruijnSyntax.lean:62]: https://github.com/leanprover/cslib/pull/475/commits/d55892da0d48e13c185dfa928f59088f3c6ecfde

**Comment by zayn7lie** [comment]
@chenson2018 Hi, is there any update on this? What should I focus on next?

**Comment by lengyijun** [comment]
@zayn7lie Do you have interest to verify confluence of η-reduction and βη-reduction ?

**Comment by zayn7lie** [comment]
> @zayn7lie Do you have interest to verify confluence of η-reduction and βη-reduction ?

Thanks for pointing out. I am quite busy with my other two research these months, but I would love to after I finish them.

Before that, I would prefer to just make sure everything I have written for de Bruijn now is flawless and compliant with the style.

**Comment by lengyijun** [comment]
[182402b6-b18d-49b3-af90-4c09782e6c07-aristotle.tar.gz](https://github.com/user-attachments/files/28908067/182402b6-b18d-49b3-af90-4c09782e6c07-aristotle.tar.gz)

I got a strong proof from Aristotle: except for confluence, also Standardization theorem

File: Cslib/Foundations/Relation/Confluence.lean [hunk 21]
```diff
@@ -52,6 +52,15 @@ theorem ReflTransGen.to_eqvGen (h : ReflTransGen r a b) : EqvGen r a b := by
 theorem SymmGen.to_eqvGen (h : SymmGen r a b) : EqvGen r a b := by
   induction h <;> grind
 
+/-- Sandwich: `r ⊆ p ⊆ r*` implies `r* = p*`. -/
+theorem ReflTransGen.sandwich_to_eq {α} {r p : α → α → Prop}
```
Comment (chenson2018) [inline Cslib/Foundations/Relation/Confluence.lean]: When I was splitting this file, I realized that this already existed prior to your PR: please remove this and use `reflTransGen_mono_closed` from later in this file. Sorry for not noticing earlier!

**Comment by chenson2018** [comment]
> @chenson2018 Hi, is there any update on this? What should I focus on next?

I think there are still some style issues here, though the definitions and proofs look correct to me. I will do another review later this week since you've just pushed some updates.

File: Cslib/Foundations/Relation/Confluence.lean (hunk 21 above)
Comment (zayn7lie) [reply Cslib/Foundations/Relation/Confluence.lean]: No problem, thanks for pointing out the nice proof. https://github.com/leanprover/cslib/pull/475/commits/a1232e71f72770f790e81a7999b7b27d7049c029

**Comment by zayn7lie** [comment]
> > @chenson2018 Hi, is there any update on this? What should I focus on next?
> 
> I think there are still some style issues here, though the definitions and proofs look correct to me. I will do another review later this week since you've just pushed some updates.

Thank you. I have just fixed some simple style issues provided by the linter.

**Comment by zayn7lie** [comment]
@chenson2018 Or would it be better to open another PR for the style issues and merge this PR first for @lengyijun and others to implement ideas like what he have mentioned about proof inspired by Aristotle?

**Comment by lengyijun** [comment]
@zayn7lie 

Thanks for the consideration!

At the moment, [fokker_challenge](https://awesome-lambda-calculus.github.io/Fokker_challenge/)  still depends on `locally-nameless`, so it doesn't rely on this PR yet.

Personally, I'm focusing on contributing to `locally-nameless` for now.
I don't plan to contribute any code to `debruijn` in the near future.


It looks like chenson2018 has been very busy lately—I currently have [10 prs](https://github.com/leanprover/cslib/pulls/lengyijun)  waiting for review.
